US04908386
4-(4-Fluorophenyl)-3butyn-1-ol
Copper (I) iodide was added to a stirred solution of 1-fluoro-4-iodobenzene (11.09 g), 3-butyn-1-ol (3.5 g), and BTPC (100 g) in diethylamine (70 ml) and the mixture stirred under nitrogen for 16 h. The mixture was evaporated in vacuo and purified by FCC on eluting with H - EA (2:1) gave the title compound as a yellow solid (2.8 g). T.l.c. (H - EA 2:1) RF 0.20.

reactant | 1-fluoro-4-iodobenzene | 11.09 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | 3-butyn-1-ol | 3.5 g | C(CC#C)O | C4H6O
solvent | diethylamine | 70 ml | C(C)NCC | C4H11N
catalyst | Copper (I) iodide | [Cu]I
product | 4-(4-Fluorophenyl)-3butyn-1-ol | 2.8 g | FC1=CC=C(C=C1)C#CCCO | C10H9FO
